data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][OH+:21]C(C1(CC(C(=CC1(C)CCCO[Si](C)(C)C(C)(C)C)CO[Si](C2=CC=CC=C2)(C3=CC=CC=C3)C(C)(C)C)C)O)SC4=CC=CC=C4.CC(=O)[O-:10].CC(=O)O.[Na+]>>[H:20][O:10]C(=O)C.CC1CC(C(C=C1CO[Si](C2=CC=CC=C2)(C3=CC=CC=C3)C(C)(C)C)(C)CCCO[Si](C)(C)C(C)(C)C)(C([OH:21])SC4=CC=CC=C4)O.CC(=O)O.[Na+] 10=20;20,21=21
[H:20][OH2+:21].CCCC=C(C)C([NH:10]C(C)(C)C)O>>[H:20][NH+:10](C(C(=CCCC)C)O)C(C)(C)C.[OH2:21] 10=20;20,21=21
[Li][P:10](C)(Cl)(Cl)[Cl:11]>>[Li][P+:10](C)(Cl)Cl.[Cl-:11] 10,11=11
[H:20][O:21]C(=O)C.CC(=O)CCC(C)([NH2+]C1=C(C=CC=C1)Br)[O-:10]>>[H:20][O:10]C(C)(CCC(=O)C)[NH2+]C1=C(C=CC=C1)Br.CC(=O)[O-:21] 10=20;20,21=21
C[S:20][Cl:21].C(=O)[O-:10]>>C[S:20][O:10]C=O.[Cl-:21] 10=20;20,21=21
[H:20][O+:21](C)C(C1CC(CN1C(=O)OCC2=CC=CC=C2)O)(O)O.C[OH:10].OS(=O)(=O)[O-]>>[H:20][OH+:10]C.C[O:21]C(C1CC(CN1C(=O)OCC2=CC=CC=C2)O)(O)O.OS(=O)(=O)[O-] 10=20;20,21=21
C1=CC(=CC=C1[CH2:20][Br:21])C#N.C1=C[N:10]=CN1>>C1=CC(=CC=C1[CH2:20][N+:10]2=CNC=C2)C#N.[Br-:21] 10=20;20,21=21
[H:20][CH:21](C(=O)O)C(=O)OC.CC(=O)[O-:10].C1CC[N+](=CCC2=CC=CC=C2)CC1.O>>[H:20][O:10]C(=O)C.COC(=O)[CH-:21]C(=O)O.C1CC[N+](=CCC2=CC=CC=C2)CC1.O 10=20;20,21=21
CCC[OH+:11][K:10]>>CCC[OH:11].[K+:10] 10,11=11
CC[Sn:20](CC)(CC)Cl.C=CCC(C1=CC=CC=C1)[O:10][Zn-](Cl)Cl>>CC[Sn-:20](CC)(CC)([O+:10](C(CC=C)C1=CC=CC=C1)[Zn-](Cl)Cl)Cl 10=20,
[H:20][CH2:21][C:22](=[O:23])CCC(=O)C.[OH-:10]>>[H:20][OH:10].CC(=O)CC[C:22](=[CH2:21])[O-:23] 10=20;22,23=23;20,21=21,22
C([CH2:20][O:21]S(=O)(=O)C(F)(F)F)O.[Br-:10]>>C([CH2:20][Br:10])O.C(F)(F)(F)S(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][NH+:21]1CCCC1.CC1(C(=O)CCCC1=O)CCC(C)(N2CCCC2)[OH:10]>>[H:20][OH+:10]C(C)(CCC1(C(=O)CCCC1=O)C)N2CCCC2.C1CC[NH:21]C1 10=20;20,21=21
C1=CC=C(C=C1)[P:10](C2=CC=CC=C2)C3=CC=CC=C3.[I:20][I:21].COC1C(C(C2C(O1)COC(O2)C3=CC=CC=C3)I)O.C1=CC=C(C=C1)P(=O)(C2=CC=CC=C2)C3=CC=CC=C3.C1=CN=CN1>>C1=CC=C(C=C1)[P+:10](C2=CC=CC=C2)(C3=CC=CC=C3)[I:20].[I-:21].COC1C(C(C2C(O1)COC(O2)C3=CC=CC=C3)I)O.C1=CC=C(C=C1)P(=O)(C2=CC=CC=C2)C3=CC=CC=C3.C1=CN=CN1 10=20;20,21=21
[H:20][O:21]C(C=CC)(C1=[N+](N=C2N1C3C(CC4=C3C=CC=C4)OC2)C5=C(C(=C(C(=C5F)F)F)F)F)C(C6=CC=C(C=C6)Br)[C:10](=[C:11](C7=CC=CC=C7)[O-:12])C(=O)C8=CC=CC=C8.[B-](F)(F)(F)F.C1CCC2=[NH+]CCCN2CC1>>[H:20][C:10](C(C1=CC=C(C=C1)Br)C(C=CC)(C2=[N+](N=C3N2C4C(CC5=C4C=CC=C5)OC3)C6=C(C(=C(C(=C6F)F)F)F)F)[O-:21])(C(=O)C7=CC=CC=C7)[C:11](=[O:12])C8=CC=CC=C8.[B-](F)(F)(F)F.C1CCC2=[NH+]CCCN2CC1 10,11=10,20;20,21=21;12=11
[H:20][C:21]1([CH+:22]C=CC2=C1C=C(C=C2)C(=O)C)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(=O)C1=CC2=C(C=C[CH:22]=[C:21]2S(=O)(=O)O)C=C1 10=20;20,21=21,22
COC(C1=CC=CC=C1)[O+](C)[Si-:10](C)(C)(C)[O:11]S(=O)(=O)C(F)(F)F.CC(=C)C[Si](C)(C)C>>COC(C1=CC=CC=C1)[O+](C)[Si:10](C)(C)C.C(F)(F)(F)S(=O)(=O)[O-:11].CC(=C)C[Si](C)(C)C 10,11=11
C[C:20](C#N)([O-:10])[O:21]C(=O)CCC=O>>C[C:20](=[O:10])C#N.C(CC(=O)[O-:21])C=O 10=20;20,21=21
C1=CC=C(C(=C1)C(=O)O)[NH2:10].[N:20]#[O+:21]>>C1=CC=C(C(=C1)C(=O)O)[NH2+:10][N:20]=[O:21] 10=20;20,21=21
C[C+]=C[Si:20](C)(C)C.C[O:10][Sn-]>>C[C+]=C[Si-:20](C)(C)(C)[O+:10](C)[Sn-] 10=20,
[B-]([O+:21](C)[CH:20](C)[O:10]C)(F)(F)F>>[B-]([O:21]C)(F)(F)F.C[CH:20]=[O+:10]C 10=20;20,21=21
[H:20][CH:21](CC(=O)C1=CC2=C(C=C1)C=C(C=C2)OC)[C:22](=[NH2+:23])C3=CC=CC=C3.CC(=O)[O-:10].O>>[H:20][O:10]C(=O)C.COC1=CC2=C(C=C1)C=C(C=C2)C(=O)C[CH:21]=[C:22](C3=CC=CC=C3)[NH2:23].O 10=20;22,23=23;20,21=21,22
[Li:11][C:10]1=CC=CC=C1.CC(=O)CC[C:20](=[O:21])C1=CC=CC=C1>>CC(=O)CC[C:20](C1=CC=CC=C1)([C:10]2=CC=CC=C2)[O-:21].[Li+:11] 10,11=10,20;20,21=21
CCOC1(CCCC1[N+:21](C)([CH3:20])C(=O)OC2=CC=CC=C2)C(=C)C3=CC=CC=C3.[Cl-:10]>>CCOC1(CCCC1[N:21](C)C(=O)OC2=CC=CC=C2)C(=C)C3=CC=CC=C3.[CH3:20][Cl:10] 10=20;20,21=21
[Li-:10]([NH+](C(C)C)C(C)C)[O+:11]=C1C(C=CCC1(C)CC=C(C)C)(C)C.[I-]>>[Li:10][NH+](C(C)C)C(C)C.CC(=CCC1(CC=CC(C1=[O:11])(C)C)C)C.[I-] 10,11=11
C[N:10](C)C1=CC=CC=C1.[CH3:20][I:21]>>C[N+:10](C)([CH3:20])C1=CC=CC=C1.[I-:21] 10=20;20,21=21
C1=CC=C(C=C1)O[C+:20]=O.C1=C[CH:10]=[C:11](C=C1)OC(=O)Cl>>C1=CC=C(C=C1)O[C:20](=O)[CH:10]2C=CC=C[C+:11]2OC(=O)Cl 10,11=10,20
CCO[C:11](=[CH:10]C(=O)OCC)[O-:12].C[C:22](=[O:23])[CH:21]=[CH2:20]>>CCOC(=O)[CH:10]([CH2:20][CH:21]=[C:22](C)[O-:23])[C:11](=[O:12])OCC 10,11=10,20;12=11;22,23=23;20,21=21,22
[H:20][C:21](C)(C)[C:22]1=[CH:23][C:24](=[O:25])C(C=C1)(C)C(Cl)Cl.C(=O)([O-:10])O[Na].[Na+]>>[H:20][O:10]C(=O)O[Na].C[C:21](=[C:22]1C=CC([C:24](=[CH:23]1)[O-:25])(C)C(Cl)Cl)C.[Na+] 10=20;24,25=25;20,21=21,22;22,23=23,24
[H:20][CH:21]1CN(CC[C:22]1=[N+:23]2CCCC2)C(=O)C.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][OH2+:10].CC(=O)N1CC[C:22](=[CH:21]C1)[N:23]2CCCC2.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;22,23=23;20,21=21,22
[H:20][CH:21](CO)[C:22](=[O:23])CCC1(CCC2(C(CC(C2=CC1=O)O)C(C)C)C)C.C[O:10][Na]>>[H:20][O+:10](C)[Na].CC(C)C1CC(C2=CC(=O)C(CCC12C)(C)CC[C:22](=[CH:21]CO)[O-:23])O 10=20;22,23=23;20,21=21,22
[H:20][CH:21]1CC2CC(N(C2C[CH:22]1[Br:23])C(=O)OCC3=CC=CC=C3)C(=O)OC.C1CCC2=[N:10]CCCN2CC1>>[H:20][N+:10]1=C2CCCCCN2CCC1.COC(=O)C1CC2C[CH:21]=[CH:22]CC2N1C(=O)OCC3=CC=CC=C3.[Br-:23] 10=20;20,21=21,22;22,23=23
